US08445696B2
A 100 L reactor was charged with spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (6.03 kg, 19.5 mol), followed by cesium carbonate (16.02 kg, 48.7 mol). Acetone (48.8 kg) was added and the resultant suspension was heated to reflux over 1 h. 2-Bromomethyl-5-(trifluoromethyl)furan (4.92 kg, 21.2 mol) was added by means of an addition funnel over a period of 2 h while the reaction mixture was maintained at reflux. The reaction mixture was stirred at reflux for a further 2 h and the acetone was removed by distillation at atmospheric pressure until 37 L of distillate had been collected. Toluene (48.8 kg) was added and the distillation was continued, first at atmospheric pressure then under reduced pressure until 37 L of distillate had been collected. Toluene (36.9 kg) was added and the distillation was continued at 54-55° C. and a pressure of 150-180 mbar until 37 L of distillate had been collected. The contents of the 100 L reactor were allowed to cool to 25° C. and toluene (40.9 kg) was added. The contents of the 100 L reactor were transferred to a 200 L reactor and deionized water (48.8 kg) was added. The stirred mixture was warmed to 39° C., the stirring was stopped and the phases were allowed to separate for 11 h. The lower phase was removed and the remaining toluene phase was subjected to distillation at 55-64° C. under a reduced pressure of 100 mbar until 18 L of distillate had been collected. The resultant solution was diluted with toluene to a total volume of 98 L. The contents of the 200 L reactor were passed through a chromatography column packed with silica gel (20 kg) and toluene (40 kg). The column was eluted with toluene such that ten 30 kg fractions were collected. The column was washed with acetone (100 kg). Fractions 2 through 10 were successively transferred to a 200 L reactor as a distillation under reduced pressure was proceeding. The contents of the reactor were adjusted with toluene to a volume of 50 L and the solution was heated to 79° C. Heptane (85 kg) was added over 15 minutes and the mixture was cooled to 10° C. over a period of 3 h. Crystallization started at an internal temperature of 56° C. The solid was collected by filtration, washed with a mixture of heptane (10.2 kg) and toluene (5.1 kg) and dried at 45-50° C. under a reduced pressure of 50 mbar over a period of 15 h to afford 1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (6.08 kg, 73%) as a colorless solid: purity (HPLC-UV at 230 nm) 99.6%; mp 139-141° C.; 1H NMR (300 MHz, CDCl3) δ7.32-6.97 (m, 5H), 6.72 (d, J=3.3 Hz, 1H), 6.66 (s, 1H), 6.07 (s, 1H), 5.90-5.88 (m, 2H), 5.05, 4.86 (ABq, JAB=16.1 Hz, 2H), 4.91 (d, J=9.0 Hz, 1H), 4.66 (d, J=9.0 Hz, 1H); 13C NMR (75 MHz, CDCl3) δ 176.9, 155.7, 153.5, 148.8, 142.2, 141.9, 140.8, 140.2, 139.7, 139.1, 132.1, 129.2, 124.7, 124.1, 123.7, 121.1, 120.1, 117.6, 114.5, 114.4, 110.3, 109.7, 103.0, 101.9, 93.8, 80.0, 57.8, 36.9; MS (ES+) m/z 430.2 (M+1), 452.2 (M+23); Calc'd for C22H14F3NO5: C, 61.54%; H, 3.29%; N, 3.26%. Found: C, 61.51%; H, 3.29%; N, 3.26%.

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 19.5 mol, 6.03 kg | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | cesium carbonate | 48.7 mol, 16.02 kg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Bromomethyl-5-(trifluoromethyl)furan | 21.2 mol, 4.92 kg | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
solvent | Acetone | 48.8 kg | CC(=O)C | C3H6O
product | 1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 6.08 kg, 73% | FC(C1=CC=C(O1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)(F)F | C22H14F3NO5
